US08609656B2
1-(4-Dimethylaminomethyl-3-(trifluoromethyl)phenyl)-3-[4-(6-(methylamino)purin-9-yl)phenyl]urea (Table 2, Compound No. 59)
The title compound can be prepared from dimethylamine and (9-{4-[3-(4-formyl-3-(trifluoromethyl)phenyl)-ureido]phenyl}-9H-purin-6-yl)-methyl-carbamic acid tert-butyl ester by using the same techniques as in Example 168.

reactant | dimethylamine | CNC | C2H7N
reactant | (9-{4-[3-(4-formyl-3-(trifluoromethyl)phenyl)-ureido]phenyl}-9H-purin-6-yl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)C=O)C(F)(F)F)=O | C26H24F3N7O4
product | 1-(4-Dimethylaminomethyl-3-(trifluoromethyl)phenyl)-3-[4-(6-(methylamino)purin-9-yl)phenyl]urea | CN(C)CC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC)C(F)(F)F | C23H23F3N8O
